US09353075B2
Step 2. Preparation of 4-phenylbutyl-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate
In a four necked round bottom flask, Et3N (5.5 mL, 39.4 mmol) was added to a solution of (2R,3S)-3-hydroxy-2-{[(4-phenylbutoxy)carbonyl]amino}butanoic acid (3.9 g, 13.1 mmol) in dry CH2Cl2 (170 mL) under argon. After cooling at 0° C., HBTU (7.5 g, 19.7 mmol) was added and the mixture stirred 3 h at 0° C., then 3.5 h at rt. The obtained solid was filtered-off and the solvent removed under vacuum. The crude was purified by typical silica gel automatic column chromatography, eluting with Cy/AcOEt (from 95:5 to 60:40). The resulting pale yellow oil (0.61 g) was further crystallized from cyclohexane to afford the pure title compound, (0.23 g, 6%), as white solid. MS (ESI) m/z: 276.24 [M−H]−. FTIR (cm−1): 3312, 3060, 3026, 2942, 2861, 1826, 1694, 1545, 1337, 1269, 1126, 1023. 1H NMR (CDCl3): δ 1.45 (d, 3H); 1.66-1.70 (m, 4H); 2.63-2.66 (m, 2H); 4.09-4.18 (m, 2H); 4.83-4.89 (m, 1H); 5.36 (br d, 1H); 5.45 (m, 1H); 7.16-7.31 (m, 5H).

reactant | Et3N | 39.4 mmol, 5.5 mL | CCN(CC)CC | C6H15N
reactant | (2R,3S)-3-hydroxy-2-{[(4-phenylbutoxy)carbonyl]amino}butanoic acid | 13.1 mmol, 3.9 g | O[C@H]([C@H](C(=O)O)NC(=O)OCCCCC1=CC=CC=C1)C | C15H21NO5
reactant | HBTU | 19.7 mmol, 7.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 170 mL | C(Cl)Cl | CH2Cl2
product | 4-phenylbutyl-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate | 0.23 g, 6% | C1(=CC=CC=C1)CCCCOC(N[C@@H]1[C@@H](OC1=O)C)=O | C15H19NO4
